US06288077B1
6-Amino-3-aminomethylpyridine
Lithium aluminium hydride (21 mmol) is added in small portions to 10 mmol of 6-aminonicotinamide in tetrahydrofuran. The mixture is heated at reflux for 72 hours, then brought to ambient temperature and hydrolyzed with water and then with a 1N sodium hydroxide solution. After stirring for one hour, the mixture is filtered through Celite and washed with an 85/15 tetrahydrofuran/methanol mixture. The solvents are then evaporated off and the residue obtained is purified by chromatography on silica gel to yield the expected product in the form of a white solid.

reactant | Lithium aluminium hydride | 21 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-aminonicotinamide | 10 mmol | NC1=NC=C(C(=O)N)C=C1 | C6H7N3O
reactant | water | O | H2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-Amino-3-aminomethylpyridine | NC1=CC=C(C=N1)CN | C6H9N3
